US04704005
9.5 g of 1-(trans-4-pentylcyclohexyl)-3,5-trans-nonadiene were dissolved in 62 ml of tetrahydrofuran in a round flask and treated with 14 mg of hydroquinone. A solution of 3.2 g of dicyanoacetylene in 18 ml of tetrahydrofuran was subsequently added by means of a pipette and the pipette was rinsed twice with 9 ml of tetrahydrofuran each time. The mixture was stirred at room temperature for 2.5 hours and then overnight at 40°-45° C. (bath temperature) under nitrogen. The dark brown solution was thereafter concentrated in vacuo. The resulting dark brown oil (10.9 g) was chromatographed on silica gel using hexane, hexane/toluene (volume ratio 1:1) and toluene, there being obtained 4.2 g of unreacted 3-cis, 5-trans-diene as a colourless oil and 7.4 g of 1,2-dicyano-3-[2-(trans-4-pentylcyclohexyl)ethyl]-6-propyl-1,4-cyclohexadiene as a slightly yellowish oil.

reactant | 1-(trans-4-pentylcyclohexyl)-3,5-trans-nonadiene | 9.5 g | C(CCCC)[C@@H]1CC[C@H](CC1)CC\C=C\C=CCCC | C20H36
reactant | dicyanoacetylene | 3.2 g | C(#N)C#CC#N | C4N2
solvent | tetrahydrofuran | 62 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
catalyst | hydroquinone | 14 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1,2-dicyano-3-[2-(trans-4-pentylcyclohexyl)ethyl]-6-propyl-1,4-cyclohexadiene | 7.4 g | C(#N)C1=C(C(C=CC1CCC)CC[C@@H]1CC[C@H](CC1)CCCCC)C#N | C24H36N2
